US07173045B2
Chloroformic acid phenyl ester (3.29 g, 21.0 mmol.) and pyridine (1.74 g, 22.0 mmol.) were added to a solution of 3-phenylpropylamine (2.7 g, 20.0 mmol.) in abs. DCM (50 ml), and stirring was carried out for 24 h at RT. For working up, the mixture was washed in succession with water (2×20 ml), 1M HCl (2×20 ml) and 1N NaOH (2×20 ml) and then the organic phase was dried, filtered and concentrated. (3-Phenylpropyl)carbamic acid phenyl ester was obtained in a yield of 4.11 g by recrystallisation from EE/hexane (1:1) (white solid, m.p. 55–56° C.).

reactant | Chloroformic acid phenyl ester | 21.0 mmol, 3.29 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | pyridine | 22.0 mmol, 1.74 g | N1=CC=CC=C1 | C5H5N
reactant | 3-phenylpropylamine | 20.0 mmol, 2.7 g | C1(=CC=CC=C1)CCCN | C9H13N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (3-Phenylpropyl)carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NCCCC1=CC=CC=C1)=O | C16H17NO2
